US05849757
4-(1-Carboxyethyl)-3,5,6-trifluorophthalic acid
A mixture of dimethyl 4-(1,1-bis-ethoxycarbonylethyl)-3,5,6-trifluorophthalate (12.9 g, 30.7 mmol), hydrochloric acid (120 ml), and acetic acid (120 ml, was refluxed for 24 h. The reaction mixture was concentrated to dryness to give 9.0 g of the title compound as colorless crystals.

reactant | dimethyl 4-(1,1-bis-ethoxycarbonylethyl)-3,5,6-trifluorophthalate | 30.7 mmol, 12.9 g | C(C)OC(=O)C(C)(C(=O)OCC)C=1C(=C(C(C(=O)OC)=C(C1F)F)C(=O)OC)F | C18H19F3O8
reactant | hydrochloric acid | 120 ml | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(1-Carboxyethyl)-3,5,6-trifluorophthalic acid | 9.0 g | C(=O)(O)C(C)C=1C(=C(C(C(=O)O)=C(C1F)F)C(=O)O)F | C11H7F3O6
